US06887889B2
N-[4-(3′-Cyano-biphenyl-4-yl)-1-cyclopropylmethyl-piperidin-4-ylmethyl]-2-(3.5-difluoro-phenyl)-acetamide
To a flask containing 1 N-[1-cyclopropylmethyl-4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-2-(3,5-difluoro-phenyl)-acetamide (0.040 g, 0.76 mmol) was added Pd(PPh3)4 (0.01 g, 0.008 mmol, 10 mol %), 3-cyanophenylboronic acid (0.020 g, 0.12 mmol, 1.5 eq.) and Na2CO3 (0.106 g, 1 mmol). The mixture was suspended in toluene (1.5 mL), EtOH (0.75 mL) and H2O (0.5 mL) and heated to 80° C. for 18 h. The reaction mixture was cooled to room temperature and partitioned between EtOAc (5 mL) and saturated Na2CO3 (5 mL). The organic layer was washed with saturated Na2CO3 (3×5 mL), saturated brine (2×5 mL), dried over anhydrous sodium sulfate, filtered and concentrated to give a brown solid which was purified by HPLC to give the title compound N-[4-(3′-cyano-biphenyl-4-yl)-1-cyclopropylmethyl-piperidin-4-ylmethyl]-2-(3,5-difluoro-phenyl)-acetamide (0.036 g, 0.072 mmol, 10%). MS(ESI): 500.3/501.3 (M+1).

reactant | N-[1-cyclopropylmethyl-4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-2-(3,5-difluoro-phenyl)-acetamide | 0.76 mmol, 0.040 g | C1(CC1)CN1CCC(CC1)(C1=CC=C(C=C1)I)CNC(CC1=CC(=CC(=C1)F)F)=O | C24H27F2IN2O
reactant | 3-cyanophenylboronic acid | 0.12 mmol, 0.020 g, 1.5 eq. | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Na2CO3 | 1 mmol, 0.106 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 0.75 mL | CCO | C2H6O
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.008 mmol, 0.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 0.5 mL | O | H2O
product | N-[4-(3′-cyano-biphenyl-4-yl)-1-cyclopropylmethyl-piperidin-4-ylmethyl]-2-(3,5-difluoro-phenyl)-acetamide | 0.072 mmol, 0.036 g, 10% | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)C1(CCN(CC1)CC1CC1)CNC(CC1=CC(=CC(=C1)F)F)=O | C31H31F2N3O
